US07084164B2
N-(2-Fluorophenyl)-2-methylthiopropionimidate methyl ester (7.84 g) prepared in the Reference Example 1 and biphenyl-4-carboxylic acid hydrazide (5.25 g) were dissolved in N,N-dimethylformamide (50 ml), followed by addition of p-toluenesulfonic acid·monohydrate (941 mg), and stirred at 120° C. for 59 hours. After the reaction solution was cooled to ambient temperature, the resulting solution was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform-chloroform/methanol=100/1 to 50/1 to 20/1), to afford 3-biphenyl-4-yl-4-(2-fluorophenyl)-5-isopropyl-4H-1,2,4-triazole as pale yellow solid (5.98g, 68%). A part of the product was recrystallized from ethyl acetate, to afford the entitled compound as pale yellow crystal. The physico-chemical values are as follows.

reactant | N-(2-Fluorophenyl)-2-methylthiopropionimidate methyl ester | 7.84 g | CSC(C(C)C)=NC1=C(C=CC=C1)F | C11H14FNS
reactant | biphenyl-4-carboxylic acid hydrazide | 5.25 g | C1(=CC=C(C=C1)C(=O)NN)C1=CC=CC=C1 | C13H12N2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-biphenyl-4-yl-4-(2-fluorophenyl)-5-isopropyl-4H-1,2,4-triazole | 5.98g, 68% | C1(=CC=C(C=C1)C1=NN=C(N1C1=C(C=CC=C1)F)C(C)C)C1=CC=CC=C1 | C23H20FN3
